US08110570B2
Hydrogenolysis is effected by dissolving 1.2 gm (4.2 mmol) of methyl 4-benzyloxy-3-carbamoylbenzoate in 60 mL of methanol (warmed to effect solution), adding 1 gm of 10% Pd/C (50% water) catalyst, and stirring under 48 psi of hydrogen overnight at room temperature. The reaction mixture is filtered, and the catalyst is repeatedly washed with 10% MeOH/DCM. The combined filtrates are evaporated to dryness to give 0.79 gm (4.05 mmol, 96% yield) of methyl 3-carbamoyl-4-hydroxybenzoate.

reactant | methyl 4-benzyloxy-3-carbamoylbenzoate | 4.2 mmol, 1.2 gm | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OC)C=C1)C(N)=O | C16H15NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 mL | CO | CH4O
catalyst | Pd/C | 1 gm | [Pd] | Pd
product | methyl 3-carbamoyl-4-hydroxybenzoate | 4.05 mmol, 0.79 gm, 96% yield | C(N)(=O)C=1C=C(C(=O)OC)C=CC1O | C9H9NO4
